US05482700
(a) O-Benzyl-N-trifluoroacetyltyrosine
112.5 g (0.41 mmol) of O-benzyltyrosine is suspended in 1 liter of dry methanol and combined at room temperature with 58.9 ml (0.42 mol) of triethylamine. After adding 67 ml (0.53 mol) of trifluoroacetic acid ethyl ester, the mixture is stirred at room temperature for 130 hours under exclusion of moisture. The mixture is separated from unreacted starting material and volatile components are removed by shaking with ethyl acetate/aqueous hydrochloric acid. The ethyl acetate phase is decolorized with activated carbon. Evaporation of the solvents yields 120.7 g (80% of theory) of colorless crystals. Melting point: 149°-150° C.

reactant | O-benzyltyrosine | 0.41 mmol, 112.5 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C16H17NO3
reactant | triethylamine | 0.42 mol, 58.9 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid ethyl ester | 0.53 mol, 67 ml | C(C)OC(C(F)(F)F)=O | C4H5F3O2
solvent | methanol | 1 liter | CO | CH4O
product | O-Benzyl-N-trifluoroacetyltyrosine | C(C1=CC=CC=C1)OC1=CC=C(C[C@H](NC(C(F)(F)F)=O)C(=O)O)C=C1 | C18H16F3NO4
